US06110967
L-Phenylalanine-2-phenylethylamide hydrochloride:
2-Phenylethylamine (577 mg, 4.8 mmol) was added to an ethyl acetate solution (50 ml) of N-benzyloxycarbonyl-L-phenylalanine 4-nitrophenyl ester (2.0 g, 4.8 mmol). The mixture was stirred at room temperature for 9 hours. After completion of the reaction, the reaction mixture was washed with a dilute aqueous solution of sodium hydroxide until washings became free from coloring, and then washed with water and saturated brine, and was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 1.9 g of a condensate. The thus-obtained condensate (1.65 g, 4.3 mmol) was dissolved in a mixed solvent (100:1) of methanol-chloroform, and 10% palladium on carbon (1.65 g) was added to the solution. The mixture was stirred at room temperature for 1 hour in a hydrogen atmosphere. After completion of the reaction, the catalyst was separated by filtration, and the filtrate was concentrated under reduced pressure to obtain 1.13 g of the title compound.

reactant | 2-Phenylethylamine | 4.8 mmol, 577 mg | C1(=CC=CC=C1)CCN | C8H11N
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | N-benzyloxycarbonyl-L-phenylalanine 4-nitrophenyl ester | 4.8 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H20N2O6
reactant | hydrogen | [H][H] | H2
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
catalyst | palladium on carbon | 1.65 g | [Pd] | Pd
product | L-Phenylalanine-2-phenylethylamide hydrochloride | 1.13 g | Cl.C1(=CC=CC=C1)CCNC([C@@H](N)CC1=CC=CC=C1)=O | InChI=1S/C17H20N2O.ClH/c18-16(13-15-9-5-2-6-10-15)17(20)19-12-11-14-7-3-1-4-8-14;/h1-10,16H,11-13,18H2,(H,19,20);1H/t16-;/m0./s1
